US04436753
In dimethylformamide (200 ml) are suspended 6-(22-hydroxydocosyl)-2,3-dimethoxy-5-methyl phenol (300 mg) and bis(4-hydroxysalicylidene)ethylenediiminocobalt(II) (50 mg). The suspension is stirred in an oxygen gas stream at ambient temperature and atmospheric pressure for 7 days. The insoluble matter is filtered off and the filtrate is concentrated under reduced pressure. The residue is diluted with water and extracted with ethyl acetate. The extract is treated in a conventional manner and the product is chromatographed on a silica gel column. The fractions obtained by elution with chloroform are pooled and recrystallized from ethanol to give orange-yellow needles of 6-(22-hydroxydocosyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone (I, n=22). m.p. 89°-90.5° C.

reactant | 6-(22-hydroxydocosyl)-2,3-dimethoxy-5-methyl phenol | 300 mg | OCCCCCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C31H56O4
reactant | oxygen | O=O | O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 6-(22-hydroxydocosyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | OCCCCCCCCCCCCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C31H54O5
